* /home/ameya/esim-workspace/4bb/4bb.cir

.include ua741.sub
.include sw4.sub
r5  net-_r5-pad1_ net-_r5-pad2_ 1k
r6  net-_r5-pad2_ net-_r6-pad2_ 1k
r7  net-_r6-pad2_ net-_r7-pad2_ 1k
r8  net-_r7-pad2_ gnd 1k
r9  net-_r7-pad2_ net-_r10-pad1_ 1k
r10  net-_r10-pad1_ net-_r10-pad2_ 1k
r11  net-_r10-pad2_ net-_r11-pad2_ 1k
r12  net-_r11-pad2_ gnd 1k
vdd1  net-_r5-pad1_ gnd 3.3
* u1  ? plot_v1
r1  out1 net-_r1-pad2_ 10k
r2  out2 net-_r1-pad2_ 10k
x1 net-_r1-pad2_ net-_r3-pad1_ /aout ua741
v1  vdd gnd 3.3
* u3  ? plot_v1
* u4  ? plot_v1
* u5  ? plot_v1
* u6  ? plot_v1
v2  d0 gnd pulse(0 1.8 0 50p 50p 20n 40n)
v3  d1 gnd pulse(0 1.8 5n 50p 50p 20n 40n)
v4  d2 gnd pulse(0 1.8 10n 50p 50p 20n 40n)
v5  d3 gnd pulse(0 1.8 15n 50p 50p 20n 40n)
* u2  /aout plot_v1
r4  net-_r3-pad1_ /aout 10k
r3  net-_r3-pad1_ gnd 10k
x2 d0 vdd net-_r5-pad2_ net-_r6-pad2_ net-_x2-pad5_ gnd sw4
x3 d0 vdd net-_r6-pad2_ net-_r7-pad2_ net-_x3-pad5_ gnd sw4
x4 d1 vdd net-_x2-pad5_ net-_x3-pad5_ out1 gnd sw4
x5 d2 vdd net-_r10-pad1_ net-_r10-pad2_ net-_x5-pad5_ gnd sw4
x6 d2 vdd net-_r10-pad2_ net-_r11-pad2_ net-_x6-pad5_ gnd sw4
x7 d3 vdd net-_x5-pad5_ net-_x6-pad5_ out2 gnd sw4
.tran 0.5e-09 120e-09 0e-09

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(?)
plot v(?)
plot v(?)
plot v(?)
plot v(?)
plot v(/aout)
.endc
.end
