* /home/ameya/esim/esim-2.0/library/subcircuitlibrary/sw4/sw4.cir

.include PMOS-180nm.lib
.include NMOS-180nm.lib
m1 net-_m1-pad1_ /d net-_m1-pad3_ net-_m1-pad3_ CMOSN W=3.6 L=0.18 M=1
m2 vdd /d net-_m1-pad1_ vdd CMOSP W=9 L=0.18 M=1
m5 /out /d /vil vdd CMOSP W=9 L=0.18 M=1
m3 /out net-_m1-pad1_ /vil /out CMOSN W=3.6 L=0.18 M=1
m6 /vih /d /out /out CMOSN W=3.6 L=0.18 M=1
m4 /vih net-_m1-pad1_ /out vdd CMOSP W=9 L=0.18 M=1
* u1  /d vdd /vil /vih /out net-_m1-pad3_ port
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
